* c:\users\mamat\esim-workspace\bjt_ce_config_input_char_ztx1048a\bjt_ce_config_input_char_ztx1048a.cir

.include 2N3055.lib
* u_ic1  ib net-_r1-pad1_ plot_i2
q1 net-_q1-pad1_ net-_q1-pad2_ gnd 2N3055
v2 ib gnd  dc 12
r2  vce net-_q1-pad1_ 1k
r1  net-_r1-pad1_ net-_q1-pad2_ 1k
v1 vce gnd  dc 12
v_u_ic1 ib net-_r1-pad1_ 0
.dc v2 0e-00 10e-00 0.05e-00 v1 0e-00 60e-00 20e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot i(v_u_ic1)
.endc
.end
